US06127354
At 0° C., N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (138 mg, 0.72 mmol) was added to a solution of (2E)-5-(tert.-butoxycarbonylamino)-5-methylhex-2-enoic acid (175 mg, 0.72 mmol) and 1-hydroxy-7-azabenzotriazole (98 mg, 0.72 mmol) in dichloromethane (3 ml) and N,N-dimethylformamide (3 ml). The reaction mixture was stirred for 20 min at 0° C. A solution of (2R)-N-[2-(2-(phenylsulfonylamino)phenyl)ethyl]-N-methyl-2-(methylamino)-3-(2-naphthyl)propionamide (363 mg, 0.72 mmol) in dichloromethane (3 ml) and ethyldiisopropylamine (0.13 ml) were added successively. The reaction mixture was stirred for 3 d, while it was warming up to room temperature. It was diluted with ethyl acetate (60 ml) and washed with a 10% aqueous solution of sodium hydrogen sulfate (60 ml). The aqueous phase was extracted with ethyl acetate (2×30 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogen carbonate (60 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (50 g), using ethyl acetate/heptane 1:1 as eluent, to give 363 mg of {(3E)-4-[N-((1R)-1-{N-[2-(2-(phenylsulfonylamino)phenyl)ethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethyl)-N-methylcarbamoyl]-1,1-dimethylbut-3-enyl}carbamic acid tert-butyl ester.

reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 0.72 mmol, 138 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2E)-5-(tert.-butoxycarbonylamino)-5-methylhex-2-enoic acid | 0.72 mmol, 175 mg | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
reactant | 1-hydroxy-7-azabenzotriazole | 0.72 mmol, 98 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | (2R)-N-[2-(2-(phenylsulfonylamino)phenyl)ethyl]-N-methyl-2-(methylamino)-3-(2-naphthyl)propionamide | 0.72 mmol, 363 mg | C1(=CC=CC=C1)S(=O)(=O)NC1=C(C=CC=C1)CCN(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)C | C29H31N3O3S
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ethyldiisopropylamine | 0.13 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | {(3E)-4-[N-((1R)-1-{N-[2-(2-(phenylsulfonylamino)phenyl)ethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethyl)-N-methylcarbamoyl]-1,1-dimethylbut-3-enyl}carbamic acid tert-butyl ester | 363 mg | C(C)(C)(C)OC(NC(C\C=C\C(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)CCC1=C(C=CC=C1)NS(=O)(=O)C1=CC=CC=C1)=O)=O)(C)C)=O | C41H50N4O6S
